US06677349B1
Using the general method of Example 242, 1-(8-aminooctyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (1.0 g, 2.72 mmol) was reacted with benzenesulfonyl chloride (350 μL, 2.72 mmol) to provide 1.38 g of N-[8-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)octyl]benzenesulfonamide as an off white powder, m.p. 143-144° C. Analsysis: Calculated for C28H37N5O2S: %C, 66.24; %H, 7.35; %N, 13.79; Found: %C, 66.08; %H, 7.25; %N, 13.72. Karl Fisher titration found 0.23% water.

reactant | 1-(8-aminooctyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 2.72 mmol, 1.0 g | NCCCCCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C22H33N5
reactant | benzenesulfonyl chloride | 2.72 mmol, 350 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-[8-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)octyl]benzenesulfonamide | 1.38 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCCCCCNS(=O)(=O)C2=CC=CC=C2)CCCC | C28H37N5O2S
